US06635657B1
2-Acetoxy-N-(5-chloropyridin-2-yl)benzamide (1.45 g, 5 mmol) was saponified in aqueous methanolic NaOH. Standard acid-base workup gave 1.06 g of crude crystalline product which was recrystallized from acetone to give N-(5-chloropyridin-2-yl)-2-hydroxybenzamide (0.79 g, 63% yield).

reactant | 2-Acetoxy-N-(5-chloropyridin-2-yl)benzamide | 5 mmol, 1.45 g | C(C)(=O)OC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1 | C14H11ClN2O3
solvent | NaOH | [OH-].[Na+]
product | N-(5-chloropyridin-2-yl)-2-hydroxybenzamide | 0.79 g, 63% yield | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)O)=O | C12H9ClN2O2
